US07425631B2
Step E. Preparation of (6-acetyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-carbamic acid tert-butyl Ester
A mixture of [6-(1-hydroxy-ethyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-carbamic acid tert-butyl ester (2.63 g, 9.04 mmol, 1.0 eq) and MnO2 (Aldrich, 10.2 g, 117.5 mmol, 13 eq) in CH2Cl2 (100 mL) was stirred at RT overnight. The mixture was passed through a pad of Celite® and the pad was washed with CH2Cl2 (100 mL×2). The concentration of the filtrate afforded the title compound as a white sticky semi-solid. MS (ESI, pos. ion) m/z: 290 (M+1).

reactant | [6-(1-hydroxy-ethyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-carbamic acid tert-butyl ester | 9.04 mmol, 2.63 g, 1.0 eq | C(C)(C)(C)OC(NC1CCCC2=CC(=CC=C12)C(C)O)=O | C17H25NO3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 117.5 mmol, 10.2 g, 13 eq | O=[Mn]=O
product | (6-acetyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-carbamic acid tert-butyl Ester | C(C)(C)(C)OC(NC1CCCC2=CC(=CC=C12)C(C)=O)=O | C17H23NO3
